US08022223B2
Preparation of N-(5-methoxy-3-phenoxypyridin-2-yl)-4-methylthiazol-2-amine
Iodomethane (0.0362 g, 0.255 mmol) is added to a mixture of 6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ol (0.255 mmol) and potassium carbonate (0.0794 g, 0.574 mmol) in DMF (3 mL) and stirred overnight at room temperature. The reaction mixture is partitioned between water and ether. The organic layer is washed with water, dried, and concentrated. The residue is purified by silica gel chromatography, eluting with 15-20% EtOAc in hexanes, to afford the title compound.

reactant | Iodomethane | 0.255 mmol, 0.0362 g | IC | CH3I
reactant | 6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ol | 0.255 mmol | CC=1N=C(SC1)NC1=C(C=C(C=N1)O)OC1=CC=CC=C1 | C15H13N3O2S
reactant | potassium carbonate | 0.574 mmol, 0.0794 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-(5-methoxy-3-phenoxypyridin-2-yl)-4-methylthiazol-2-amine | COC=1C=C(C(=NC1)NC=1SC=C(N1)C)OC1=CC=CC=C1 | C16H15N3O2S
